US09358231B2
C. (E)-3-(2-(4-methoxy-1H-pyrrolo[2,3-b]pyridin-5-yl)vinyl)-4-methylbenzoic acid
To a solution of (E)-ethyl 3-(2-(4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)vinyl)-4-methylbenzoate (298 mg, 0.64 mmol) in CH2Cl2 (2 mL) was added TFA (0.24 mL, 3.19 mmol). The reaction mixture was stirred for 1 hour and the organic solvent was concentrated under reduced pressure. To a solution of the resulting mixture in THF (2 mL) and MeOH (2 mL) was added LiOH.H2O (535 mg, 0.42 mmol) in water (2 mL). The reaction mixture was stirred for 8 hours at room temperature. To a reaction mixture was added 1N HCl solution to produce solid. The solid product was filtered and dried with nitrogen gas flow. The title product (128 mg, 65% yield) was used without further purification. MS m/z: 309 [M+1].

reactant | (E)-ethyl 3-(2-(4-methoxy-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)vinyl)-4-methylbenzoate | 0.64 mmol, 298 mg | COC1=C2C(=NC=C1/C=C/C=1C=C(C(=O)OCC)C=CC1C)N(C=C2)COCC[Si](C)(C)C | C26H34N2O4Si
reactant | TFA | 3.19 mmol, 0.24 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | LiOH.H2O | 0.42 mmol, 535 mg | O[Li].O
reactant | HCl | 1N | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | MeOH | 2 mL | CO | CH4O
product | (E)-3-(2-(4-methoxy-1H-pyrrolo[2,3-b]pyridin-5-yl)vinyl)-4-methylbenzoic acid | 128 mg, 65% yield | COC1=C2C(=NC=C1/C=C/C=1C=C(C(=O)O)C=CC1C)NC=C2 | C18H16N2O3
